US05021413
A mixture of 260 mg of 3-(pyrrolidin-1-ylmethyl)thiomorpholine and 5 ml of 1,4-dioxane was treated with 150 μl of 4N 1,4-dioxane solution of hydrogen chloride. The solvent was evaporated under reduced pressure to yield 354 mg (98%) of 3-(pyrrolidin-1-ylmethyl)thiomorpholine dihydrochloride, melting at 218°-220° C.

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 260 mg | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 4N, 150 μl | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-(pyrrolidin-1-ylmethyl)thiomorpholine dihydrochloride | 354 mg, 98% | Cl.Cl.N1(CCCC1)CC1NCCSC1 | InChI=1S/C9H18N2S.2ClH/c1-2-5-11(4-1)7-9-8-12-6-3-10-9;;/h9-10H,1-8H2;2*1H
